US08247596B2
To a suspension of 9.21 g of a double salt of 2KHSO5.KHSO4.K2SO4 (Oxone, registered trade mark) in 50 ml of water was added dropwise a solution of 6.80 g of (3,3,4,4,5,5,6,6,6-nonafluorohexylsulfinyl)acetonitrile in 50 ml of methanol at room temperature over 60 minutes under a nitrogen atmosphere, and the mixture was stirred overnight. To the reaction mixture was added 25 ml of an aqueous 10% sodium sulfite solution, followed by extraction with 100 ml of ethyl acetate twice. Organic layers were combined, washed with 25 ml of an aqueous 10% sodium sulfite solution and 50 ml of an aqueous saturated sodium chloride solution, dried over sodium sulfate, filtered, and then concentrated under rescued pressure. The residue was subjected to silica gel column chromatography to obtain 5.4 g of (3,3,4,4,5,5,6,6,6-nonafluorohexylsulfonyl)acetonitrile represented by the formula:

reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
reactant | (3,3,4,4,5,5,6,6,6-nonafluorohexylsulfinyl)acetonitrile | 6.80 g | FC(CCS(=O)CC#N)(C(C(C(F)(F)F)(F)F)(F)F)F | C8H6F9NOS
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 50 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | (3,3,4,4,5,5,6,6,6-nonafluorohexylsulfonyl)acetonitrile | 5.4 g | FC(CCS(=O)(=O)CC#N)(C(C(C(F)(F)F)(F)F)(F)F)F | C8H6F9NO2S
